US04091109
(A) Preparation of 4-methyl-3-n-propylthiophenyl 3-tri fluoromethylphenyl ether
4-Methyl-3-(n-propylthio)phenol (8.4 g, 0.05 mole) and 85.5 % potassium hydroxide (3.3 g, 0.05 mole) were dissolved in N,N-dimethylacetamide (50 ml) above 90° C. 3-Bromotrifluoromethylbenzene (11.2 g, 0.05 mole) and Cu powder (0.5 g, 0.008 mole) were added to this solution below 90° C and the mixture was stirred at 110°-160° C for 14 hr. After cooling, the reaction mixture was poured into water (150 ml) and extracted twice benzene. The combined organic layers were washed with 5 % sodium hydroxide solution, 5 % hydrochloric acid solution, and water, then dried over sodium fulfate. The solvent was removed, and the residue was purified by column chromatography on silica gel using n-hexane benzene (2 : 1). The yield of 4-methyl-3-n-propylthiophenyl 3-trifluoromethylphenyl ether was 8.9 g (54.8 %), colorless oil, nD25 1.5319. Anal. Found: C, 62.61; H, 5.33. Calcd. for C17H17F3OS : C, 62.56; H, 5.25 %.

reactant | 4-Methyl-3-(n-propylthio)phenol | 0.05 mole, 8.4 g | CC1=C(C=C(C=C1)O)SCCC | C10H14OS
reactant | potassium hydroxide | 0.05 mole, 3.3 g | [OH-].[K+]
reactant | 3-Bromotrifluoromethylbenzene | 0.05 mole, 11.2 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 4-methyl-3-n-propylthiophenyl 3-tri fluoromethylphenyl ether | FC(C=1C=C(C=CC1)OC1=CC(=C(C=C1)C)SCCC)(F)F | C17H17F3OS
